US05028606
A mixture of 3 parts of 7-(1H-imidazol-1-ylmethyl)-3-methyl-2(1H)-quinoxalinone, 0.3 parts of a sodium hydroxide dispersion 50% and 28 parts of N,N-dimethylformamide was stirred for 1.5 hours at room temperature. 2 Parts of iodomethane were added and stirring was continued for 12 hours at room temperature under nitrogen atmosphere. The reaction mixture was evaporated to dry and the residue was taken up in water and potassium carbonate. The product was extracted with dichloromethane. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of dichloromethane and methanol (98:2 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from a mixture of 2,2'-oxybispropane and 2-propanone. The product was filtered off and dried, yielding 2.2 parts (66.8%) of 7-(1H-imidazol-1-ylmethyl)-1,3-dimethyl-2(1H)-quinoxalinone hemihydrate; mp. 128.6° C. (comp. 79).

reactant | 7-(1H-imidazol-1-ylmethyl)-3-methyl-2(1H)-quinoxalinone | N1(C=NC=C1)CC1=CC=C2N=C(C(NC2=C1)=O)C | C13H12N4O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | iodomethane | IC | CH3I
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 7-(1H-imidazol-1-ylmethyl)-1,3-dimethyl-2(1H)-quinoxalinone hemihydrate | 66.8% | O.N1(C=NC=C1)CC1=CC=C2N=C(C(N(C2=C1)C)=O)C.N1(C=NC=C1)CC1=CC=C2N=C(C(N(C2=C1)C)=O)C | InChI=1S/2C14H14N4O.H2O/c2*1-10-14(19)17(2)13-7-11(3-4-12(13)16-10)8-18-6-5-15-9-18;/h2*3-7,9H,8H2,1-2H3;1H2
